US06951879B2
220 mg (0.39 mmol) [2-(tert-Butyl-dimethyl-silanyloxy)-ethyl]-ethyl-{4-[3-(4-piperidin-1-yl-phenyl)-benzo[d]isothiazol-6-yloxy]-butyl}-amine in 5 ml THF were treated with 0.6 ml 1M TBAF in THF for 1 h at RT. The solution was concentrated and the crude product subjected to column chromatography on silica gel with CH2Cl2:MeOH 9:1 to give 146 mg (83%) 2-(Ethyl-{4-[3-(4-piperidin-1-yl-phenyl)-benzo[d]isothiazol-6-yloxy]-butyl}-amino)-ethanol as yellow oil, MS: 454 (MH+).

reactant | [2-(tert-Butyl-dimethyl-silanyloxy)-ethyl]-ethyl-{4-[3-(4-piperidin-1-yl-phenyl)-benzo[d]isothiazol-6-yloxy]-butyl}-amine | 0.39 mmol, 220 mg | C(C)(C)(C)[Si](OCCN(CCCCOC1=CC2=C(C(=NS2)C2=CC=C(C=C2)N2CCCCC2)C=C1)CC)(C)C | C32H49N3O2SSi
reactant | TBAF | 1M, 0.6 ml | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 2-(Ethyl-{4-[3-(4-piperidin-1-yl-phenyl)-benzo[d]isothiazol-6-yloxy]-butyl}-amino)-ethanol | 146 mg, 83% | C(C)N(CCO)CCCCOC1=CC2=C(C(=NS2)C2=CC=C(C=C2)N2CCCCC2)C=C1 | C26H35N3O2S
